### PR TITLE
Feat: overflow theorems

### PR DESCRIPTION
**Pull request by AnotherAlexHere**
Added some new theorems and replaced all "sorry" with "try alive_auto  all_goals sorry".

### CODE REVIEW

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 1]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+def NumberOfLeadingZeros (x : BitVec w) : ℕ := sorry
+
+theorem le_nlz_add_nlz_not_unsigned_mul_overflow {x y : BitVec 64} :
+    32 ≤ NumberOfLeadingZeros x + NumberOfLeadingZeros y ↔ ¬ UnisignedMultiplicationOverflows? x y := by
+  try alive_auto
+  all_goals sorry
+
+theorem nlz_add_nlz_le_unsigned_mul_overflow {x y : BitVec 64} :
+    NumberOfLeadingZeros x + NumberOfLeadingZeros y ≤ 30 ↔ UnisignedMultiplicationOverflows? x y := by
+  try alive_auto
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    NumberOfLeadingZeros x + NumberOfLeadingZeros y ≤ 30 ↔ UnsignedMultiplicationOverflows? x y := by
  try alive_auto
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 2]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+    (x * y) / z ≠ x → UnisignedMultiplicationOverflows? x y := by
+  try alive_auto
+  all_goals sorry
+
+theorem lt_and_eq_neg_pow_two_or_mul_div_neq_imp_unsigned_mul_overflow (h : y.toNat ≠ 0) :
+    (y < 0) && (x.toInt = - 2 ^ 31) || ((x * y) / z ≠ x) → SignedMultiplicationOverflows? x y := by
+  try alive_auto
+  all_goals sorry
+
+def NumberOfLeadingZeros (x : BitVec w) : ℕ := sorry
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean:447]: Here are some ideas about how you could define the number of leadning zeroes.

```lean

def HasNumberOfLeadingZeros1 {w : Nat} (x : BitVec w) (n : Nat) : Prop := n + x.toNat.log2 = w
def numberOfLeadingZeros2 {w : Nat} (x : BitVec w) : Nat := w - x.toNat.log2
def numberOfLeadingZeros3{w : Nat} (x : BitVec w) : Nat :=
  if x = 0 then w
  else  numberOfLeadingZeros3 (x >>> 1) - 1
def numberOfLeadingZeros4 {w : Nat} (x : BitVec w) : Nat :=
  let rec countLeadingZeros (i : Nat) (count : Nat) : Nat :=
    match i with
      | Nat.zero => count
      | Nat.succ i =>  if !x.getLsb i then countLeadingZeros i (count + 1) else count
  countLeadingZeros w 0
```
Which definition you use is up to you, but it will affect how easy or difficult the proofs are.

File: SSA/Projects/InstCombine/HackersDelight.lean (hunk 1 above)
Comment (AnotherAlexHere) [reply SSA/Projects/InstCombine/HackersDelight.lean]: Good spot!

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 3]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+
+theorem le_nlz_add_nlz_not_unsigned_mul_overflow {x y : BitVec 64} :
+    32 ≤ NumberOfLeadingZeros x + NumberOfLeadingZeros y ↔ ¬ UnisignedMultiplicationOverflows? x y := by
```
Comment (AnotherAlexHere) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    32 ≤ NumberOfLeadingZeros x + NumberOfLeadingZeros y ↔ ¬ UnsignedMultiplicationOverflows? x y := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 4]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+  try alive_auto
+  all_goals sorry
+
+theorem nlz_add_nlz_le_unsigned_mul_overflow {x y : BitVec 64} :
+    NumberOfLeadingZeros x + NumberOfLeadingZeros y ≤ 30 ↔ UnisignedMultiplicationOverflows? x y := by
```
Comment (AnotherAlexHere) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    NumberOfLeadingZeros x + NumberOfLeadingZeros y ≤ 30 ↔ UnsignedMultiplicationOverflows? x y := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 5]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+    AdditionNoOverflows? x (~~~ y) ↔ x ≤ᵤ y := by
+  try alive_auto
+  all_goals sorry
+
+theorem add_not_iff_ule_sub_sub :
+    AdditionNoOverflows? x (~~~ y) ↔ x ≤ᵤ x - y - 1 := by
+  try alive_auto
+  all_goals sorry
+
+def UnisignedMultiplicationOverflows? (x y : BitVec w) : Prop := x.toNat * y.toNat > 2 ^ w
```
Comment (AnotherAlexHere) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
def UnsignedMultiplicationOverflows? (x y : BitVec w) : Prop := x.toNat * y.toNat > 2 ^ w
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 6]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+def SignedMultiplicationOverflows? (x y : BitVec w) : Prop := x.toNat * y.toNat > 2 ^ (w - 1)
+
+def Last32Bits (x : BitVec 64) : BitVec 32 := BitVec.ofNat 32 x.toNat
+def First32Bits (x : BitVec 64) : BitVec 32 := BitVec.ofNat 32 (x >>> 32).toNat
+
+theorem unsigned_mul_overflow_iff_mul_neq_zero {x y : BitVec 64} :
+    UnisignedMultiplicationOverflows? x y ↔ First32Bits (x * y) ≠ BitVec.ofNat 32 0 := by
```
Comment (AnotherAlexHere) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    UnsignedMultiplicationOverflows? x y ↔ First32Bits (x * y) ≠ BitVec.ofNat 32 0 := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 7]
```diff
@@ -125,184 +142,326 @@ theorem not_sub_eq_sub_sub_one :
...
+  try alive_auto
+  all_goals sorry
+
+theorem signed_mul_overflow_iff_mul_neq_mul_RightShift {x y : BitVec 64} :
+    SignedMultiplicationOverflows? x y ↔ First32Bits (x * y) ≠ Last32Bits (x * y) >>> 31 := by
+  try alive_auto
+  all_goals sorry
+
+theorem mul_div_neq_imp_unsigned_mul_overflow (h : y.toNat ≠ 0) :
+    (x * y) / z ≠ x → UnisignedMultiplicationOverflows? x y := by
```
Comment (AnotherAlexHere) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    (x * y) / z ≠ x → UnsignedMultiplicationOverflows? x y := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean (hunk 2 above)
Comment (AnotherAlexHere) [reply SSA/Projects/InstCombine/HackersDelight.lean:447]: Thank you for the suggestions, I think about which definition to use and add it to the next commit.

**Comment by AtticusKuhn** [comment]
Closing because we are splitting this PR into two, smaller indivisible PRs.
